US08486967B2
h) 8-(2-Chloro-4-fluorophenyl)-2-(1-(2-chloropyridin-4-yl)piperidin-4-ylamino)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-6-ol
To tert-butyl 4-(8-(2-chloro-4-fluorophenyl)-6-hydroxy-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)piperidine-1-carboxylate (0.05 g, 0.1 mmol) was added HCl (3 mL, 4 N in dioxane) and the reaction stirred for 0.5 hour. The reaction was then concentrated to dryness, the residue redissolved in dimethylacetamide (0.5 mL), triethylamine added until the mixture was basic, followed by the addition of 2-chloro-4-fluoropyridine (0.04 g, 0.3 mmol) and the mixture heated to 80° C. for 1 hour. The reaction was evaporated to dryness, redissolved in ethyl acetate, washed with saturated sodium hydrogen carbonate, water, brine, dried with sodium sulfate and the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel using ethyl acetate/MeOH (v/v 1:0 to 95:5) as eluent. The title compound was obtained as a light yellow gum (0.04 g, 76%), an inseparable 1:1 mixture of diasteriomers. MS ISP (m/e): 477.1 [(M+H)+].

reactant | tert-butyl 4-(8-(2-chloro-4-fluorophenyl)-6-hydroxy-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)piperidine-1-carboxylate | 0.1 mmol, 0.05 g | ClC1=C(C=CC(=C1)F)C1C=2N(CC(C1)O)N=C(N2)NC2CCN(CC2)C(=O)OC(C)(C)C | C22H29ClFN5O3
reactant | HCl | 4 N, 3 mL | Cl | ClH
reactant | 2-chloro-4-fluoropyridine | 0.3 mmol, 0.04 g | ClC1=NC=CC(=C1)F | C5H3ClFN
product | 8-(2-Chloro-4-fluorophenyl)-2-(1-(2-chloropyridin-4-yl)piperidin-4-ylamino)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-6-ol | ClC1=C(C=CC(=C1)F)C1C=2N(CC(C1)O)N=C(N2)NC2CCN(CC2)C2=CC(=NC=C2)Cl | C22H23Cl2FN6O
